US09102591B2
2,3-Dichloro-N-[2-(5-chloro-pyridin-3-yl)-3-cyclopropyl-propyl]-benzamide
From 2,3-dichlorobenzoic acid and 3-cyclopropyl-2-(5-chloro-pyridin-3-yl)-propylamine. LCMS (MH+): m/z=383.0, tR (minutes, Method D)=0.74

reactant | 2,3-dichlorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1Cl | C7H4Cl2O2
reactant | 3-cyclopropyl-2-(5-chloro-pyridin-3-yl)-propylamine | C1(CC1)CC(CN)C=1C=NC=C(C1)Cl | C11H15ClN2
product | 2,3-Dichloro-N-[2-(5-chloro-pyridin-3-yl)-3-cyclopropyl-propyl]-benzamide | ClC1=C(C(=O)NCC(CC2CC2)C=2C=NC=C(C2)Cl)C=CC=C1Cl | C18H17Cl3N2O
